US08008350B2
i) 4-bromo-2-fluoro-1-[(4-methoxyphenyl)sulfonyl]benzene
The subtitle compound was prepared by the method of example 9 step (i) using 4-bromo-2-fluorobenzenesulfonyl chloride and anisole.

reactant | 4-bromo-2-fluorobenzenesulfonyl chloride | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
product | 4-bromo-2-fluoro-1-[(4-methoxyphenyl)sulfonyl]benzene | BrC1=CC(=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)OC)F | C13H10BrFO3S
